US06927220B2
Compound 15: Cyclopropanecarboxylic acid {3-[4-(3-methyl-4-phenoxy-phenylamino)-pyrido[3,4-d]pyrimidin-6-yl]-3-aza-bicyclo[3.1.0]hex-6-yl}-amide.
A solution of 107.4 mg (0.25 mmol) of [6-(6-amino-3-aza-bicyclo[3.1.0]hex-3-yl)-pyrido[3,4-d]pyrimidin-4-yl]-(3-methyl-4-phenoxy-phenyl)-amine and 35.2 μL (0.25 mmol) of triethylamine in 0.5 mL of methylene chloride in an ice/brine bath was treated with 24.1 μL of cyclopropanecarbonyl chloride. The reaction was allowed to warm to room temperature and stirred for 1 hour. The mixture was diluted with chloroform and washed with 2×50 mL of saturated sodium bicarbonate. The organics were dried over sodium sulfate, filtered and concentrated under vacuum. The residue was recrystallized from ethyl acetate to afford 91.7 mg (73%) of the title compound. 1H NMR (CDCl3): δ 8.78 (s, 1), 8.37 (s, 1), 7.63 (m, 1), 7.53 (m, 1), 7.26 (m, 2), 6.95 (m, 1), 6.89 (m, 3), 6.79 (s, 1), 3.87 (d, 2), 3.48 (m, 2), 2.38 (m, 1), 2.21 (s, 3), 184 (m, 2), 1.33 (m, 1), 0.89 (m, 2), 0.72 (m, 2). M.S. (m+1): 493; HPLC retention time (minutes): 6.672.

reactant | [6-(6-amino-3-aza-bicyclo[3.1.0]hex-3-yl)-pyrido[3,4-d]pyrimidin-4-yl]-(3-methyl-4-phenoxy-phenyl)-amine | 0.25 mmol, 107.4 mg | NC1C2CN(CC12)C1=CC2=C(N=CN=C2NC2=CC(=C(C=C2)OC2=CC=CC=C2)C)C=N1 | C25H24N6O
reactant | triethylamine | 0.25 mmol, 35.2 μL | C(C)N(CC)CC | C6H15N
reactant | cyclopropanecarbonyl chloride | 24.1 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | methylene chloride | 0.5 mL | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Cyclopropanecarboxylic acid {3-[4-(3-methyl-4-phenoxy-phenylamino)-pyrido[3,4-d]pyrimidin-6-yl]-3-aza-bicyclo[3.1.0]hex-6-yl}-amide | 91.7 mg, 73% | CC=1C=C(C=CC1OC1=CC=CC=C1)NC=1C2=C(N=CN1)C=NC(=C2)N2CC1C(C1C2)NC(=O)C2CC2 | C29H28N6O2
